US08809525B2
1-(3-Amino-5-phenyl-1,2,4-triazin-6-yl)-3,5-dimethylpyridin-4(1H)-one (40 mg, 5%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.70 g, 2.7 mmol), 3,5-dimethylpyridin-4-ol (0.45 g, 3.7 mmol) and K2CO3 (0.93 g, 6.7 mmol) according to the general procedure of Example 3.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 2.7 mmol, 0.70 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 3,5-dimethylpyridin-4-ol | 3.7 mmol, 0.45 g | CC=1C=NC=C(C1O)C | C7H9NO
reactant | K2CO3 | 6.7 mmol, 0.93 g | C(=O)([O-])[O-].[K+].[K+]
product | 1-(3-Amino-5-phenyl-1,2,4-triazin-6-yl)-3,5-dimethylpyridin-4(1H)-one | 40 mg, 5% | NC=1N=NC(=C(N1)C1=CC=CC=C1)N1C=C(C(C(=C1)C)=O)C | C16H15N5O
